US04259354
N,N-Dimethyl-N,N-dioctylammonium bromide
Following the general procedure of Example 1, 5.0 g. of N-methyl-N,N-dioctylamine was reacted with methyl bromide in diethyl ether to provide, after crystallization from diethyl ether, 6.89 g. of N,N-dimethyl-N,N-dioctylammonium bromide.

reactant | N-methyl-N,N-dioctylamine | CN(CCCCCCCC)CCCCCCCC | C17H37N
reactant | methyl bromide | CBr | CH3Br
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N-Dimethyl-N,N-dioctylammonium bromide | [Br-].C[N+](CCCCCCCC)(CCCCCCCC)C | InChI=1S/C18H40N.BrH/c1-5-7-9-11-13-15-17-19(3,4)18-16-14-12-10-8-6-2;/h5-18H2,1-4H3;1H/q+1;/p-1
